US04134980
1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloropropane was prepared analogous to Example 1 (a) by reaction of 4-methyl-6,7-dimethoxy-1(2H)-phthalazinone with 1-bromo-3-chloro-propane in dimethylformamide. Rf -value (chloroform/methanol = 9/1) : 0.9.

reactant | 4-methyl-6,7-dimethoxy-1(2H)-phthalazinone | CC1=NNC(C2=CC(=C(C=C12)OC)OC)=O | C11H12N2O3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloropropane | CC1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCCCl | C14H17ClN2O3
